US07919519B2
A 25 mm tube was charged with trifuran-2-ylphosphine (0.0737 g, 0.317 mmol), Pd2 dba3 (0.0411 g, 0.0397 mmol), 5-benzylbenzofuran-2-ylboronic acid (0.500 g, 1.98 mmol), CuTC (0.492 g, 2.58 mmol), 2-(methylthio)pyrimidine-5-carbaldehyde (0.306 g, 1.98 mmol) under argon. The reactants were diluted in 8 mL THF, sealed, and heated to 50° C. overnight. The mixture was filtered through Celite rinsing with 200 mL EtOAc. The green solution was concentrated and adsorbed onto 5 g silica gel, and purified by ISCO, 0-20% EtOAc/hexanes to give 2-(5-benzylbenzofuran-2-yl)pyrimidine-5-carbaldehyde as a light yellow solid. MS (ESI) m/z: Calculated: 314.1; Observed: 315.1 (M++1).

reactant | trifuran-2-ylphosphine | 0.317 mmol, 0.0737 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 5-benzylbenzofuran-2-ylboronic acid | 1.98 mmol, 0.500 g | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C15H13BO3
reactant | 2-(methylthio)pyrimidine-5-carbaldehyde | 1.98 mmol, 0.306 g | CSC1=NC=C(C=N1)C=O | C6H6N2OS
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | Pd2 dba3 | 0.0397 mmol, 0.0411 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CuTC | 2.58 mmol, 0.492 g | C1=CSC(=C1)C(=O)[O-].[Cu+]
product | 2-(5-benzylbenzofuran-2-yl)pyrimidine-5-carbaldehyde | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=NC=C(C=N2)C=O)C1 | C20H14N2O2
